US06284785B1
(RS)-2-(4-Fluoro-phenyl)-1-(4-cyano-benzenesulfonyl)-pyrrolidine
The title compound, off-white solid, m.p. 147° C. and MS: m/e=330 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 4-cyano-benzenesulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 4-cyano-benzenesulfonyl chloride | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
product | (RS)-2-(4-Fluoro-phenyl)-1-(4-cyano-benzenesulfonyl)-pyrrolidine | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C#N | C17H15FN2O2S
